US07247625B2
5-[(4,4-diethyl-1-methyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)amino]-2-fluorobenzonitrile
Prepared from 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one and 3-cyano-4-fluorophenylboronic acid according to the coupling procedure described in example 1. 1H NMR (DMSO-d6): δ 8.40 (s, 1H), 7.38 (t, J=8.9 Hz, 1H), 7.27 (m, 2H), 7.14 (dd, J=8.6, 2.3 Hz, 1H), 7.04 (d, J=8.8 Hz, 1H), 6.91 (d, J=2.5 Hz, 1H), 3.27 (s, 3H), 1.98 (m, 4H), 0.81 (t, J=7.4 Hz, 6H); MS (ESI) m/z 354 ([M+H]+); MS (ESI) m/z 352 ([M−H]−); Anal. calcd for C20H20FN3O2: C, 67.97H, 5.70; N, 11.89. Found: C, 65.58; H, 5.65; N, 11.36.

reactant | 6-amino-4,4-diethyl-1-methyl-1,4-dihydro-2H-3,1-benzoxazin-2-one | NC=1C=CC2=C(C(OC(N2C)=O)(CC)CC)C1 | C13H18N2O2
reactant | 3-cyano-4-fluorophenylboronic acid | C(#N)C=1C=C(C=CC1F)B(O)O | C7H5BFNO2
product | 5-[(4,4-diethyl-1-methyl-2-oxo-1,4-dihydro-2H-3,1-benzoxazin-6-yl)amino]-2-fluorobenzonitrile | C(C)C1(OC(N(C2=C1C=C(C=C2)NC=2C=CC(=C(C#N)C2)F)C)=O)CC | C20H20FN3O2
